US05321027
1-[4-(N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine can be prepared from 3 g of p-(N-methylamino)benzoic acid in a manner analogous to that described in Example 1. 1-[4-(N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride having a melting point of 156°-158° is obtained therefrom by treatment with a solution of hydrogen chloride in ethyl acetate.

reactant | 1-[4-(N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | CNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C20H24ClN3O
reactant | p-(N-methylamino)benzoic acid | 3 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
product | 1-[4-(N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride | Cl.CNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C20H24ClN3O.ClH/c1-22-19-8-4-17(5-9-19)20(25)24-14-12-23(13-15-24)11-10-16-2-6-18(21)7-3-16;/h2-9,22H,10-15H2,1H3;1H
